US04408077
1,1,1-Trifluoro-5-(2-methylphenyl)-2,3-pentanedione 3-oxime (III)
A solution of potassium nitrite (22.2 g, 0.26 mol) in water (total volume=7.4 mL) was added in one portion to a stirred solution of 1,1,1-trifluoro-5-(2-methylphenyl)-2-pentanone (20 g, 0.087 mol), tert-butanol (25 mL) and acetic acid (25 mL) at 25° C. The reaction mixture was stirred at 25° C. for 2.5 hr. Another solution of potassium nitrite (7.5 g, 0.088 mol) in water (2.5 mL) then was added. After stirring for 1.5 hr, the reaction mixture was poured into water. The resulting mixtutre was extracted with diethyl ether (3x). The combined ether extracts were washed with water and then washed with a saturated aqueous solution of NaHCO3. Thereafter, the organic extract was dried (MgSO4) and concentrated under reduced pressure to give the title compound (22.1 g, 98% yield) as a yellow crystalline mass. This product was used for the reaction described in the following example. A sample of the product, recrystallized for hexane, had mp 80°-81° C.; nmr (CDCl3) δ 2.35 (s, 3H), 2.8 (s, 4H), 7.1 (s, 4H); ir (CHCl3) 3540, 3340, 1730, 1165-1 ; Anal Calcd for C12H12F3NO2 : C, 55.60% H, 4.67%; Found: C, 55.41% H, 4.60%.

reactant | potassium nitrite | 0.26 mol, 22.2 g | N(=O)[O-].[K+]
reactant | 1,1,1-trifluoro-5-(2-methylphenyl)-2-pentanone | 0.087 mol, 20 g | FC(C(CCCC1=C(C=CC=C1)C)=O)(F)F | C12H13F3O
reactant | tert-butanol | 25 mL | C(C)(C)(C)O | C4H10O
reactant | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
reactant | potassium nitrite | 0.088 mol, 7.5 g | N(=O)[O-].[K+]
solvent | water | O | H2O
solvent | water | 2.5 mL | O | H2O
product | 1,1,1-Trifluoro-5-(2-methylphenyl)-2,3-pentanedione 3-oxime | 22.1 g, 98% yield | FC(C(C(CCC1=C(C=CC=C1)C)=NO)=O)(F)F | C12H12F3NO2
